US05475143
Synthesis of CH3SCF2CF2CO2CH3
A 400 mL pressure vessel was charged with 34.1 g (0.49 mol) of sodium thiomethoxide and 150 mL of anhydrous dimethylsulfoxide (DMSO). The vessel was closed, cooled in dry ice, evacuated and charged with 32 g (0.73 mol) of carbon dioxide and 50 g (0.5 mol) of tetrafluoroethylene. The vessel contents were heated with agitation to 50° C. for 1 hr and 100° C. for 5 hr. After cooling to room temperature, the vessel contents were transferred to a 500 mL round bottom flask using an additional 30 mL of DMSO to rinse. Dimethylsulfate (65 g, 0.52 mol) was added and the mixture was stirred for 3 hr at 30°-50° C. Volatiles were removed by distillation at 1 mm into a dry ice cooled receiver with a maximum pot temperature of 65° C.

reactant | sodium thiomethoxide | 0.49 mol, 34.1 g | C[S-].[Na+]
reactant | dimethylsulfoxide | 150 mL | CS(=O)C | C2H6OS
reactant | tetrafluoroethylene | 0.5 mol, 50 g | FC(=C(F)F)F | C2F4
reactant | DMSO | 30 mL | CS(=O)C | C2H6OS
reactant | Dimethylsulfate | 0.52 mol, 65 g | COS(=O)(=O)OC | C2H6O4S
reactant | dry ice | C(=O)=O | CO2
reactant | carbon dioxide | 0.73 mol, 32 g | C(=O)=O | CO2
product | CH3SCF2CF2CO2CH3 | CSC(F)(F)C(F)(F)C(=O)OC | C5H6F4O2S
